Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
___-___ Catheter Placement with CRRT 
HD

 
History of Present Illness:
Mr. ___ is a ___ man with history of severe AS s/p
mechanical aortic valve replacement in ___ c/b recent episode 
of
aortic valve endocarditis with subsequent dehiscence, paroxysmal
Afib/Aflutter, HTN, HLD, OSA, CHF with preserved EF, and ESRD on
HD (___) who presented from rehab with presumed syncope.  
 
Patient was at a ___ appointment earlier on ___ and was
interacting with physical therapist when he had an acute
unresponsive episode. Per witness report, eyes rolled back in
head for approximately 10 seconds and was acutely unresponsive.
He denied any pre-syncopal symptoms, denied chest pain, SOB,
palpitations, without prodrome of lightheadedness, dizziness, no
abdominal pain or back pain. He does state that he was feeling
"tired" earlier in the day and did not want to participate in ___
in the first place. 
 
He reports increased dyspnea on exertion recently. He had
dialysis on ___ at which time 3L were removed and he
reports feeling severely fatigued following that.  
 
Of note, patient was recently admitted ___ - ___
SOB and weakness, and found to be volume overloaded requiring
pressor-supported diuresis with furosemide gtt/diuril and
ultimately CRRT ultimately found to have dehiscence of his 
aortic
valve ___ Staph epidermidis endocarditis s/p plug procedure on
___ resulting in improvement in the severity of AI, although
with minimal improvement in pressures or pulse pressure but
ultimately he improved with weaning of vasopressor and inotrope
support and transitioned to iHD. He was also diagnosed with new
cirrhosis felt to be likely cardiac in etiology.  
 
On arrival to the ED, initial vitals: T 98.6 P 66 BP 117/59 RR 
16
O2 100%RA. 

On exam, noted to have JVD up to mid-neck. Crackles in RLL. 2+
pitting edema in LEs. 

Labs notable for WBC 12.4, H/H 8.1/26.4, Na 126, K 5.1, bicarb
19, BUN/Cr 34/4.1 with AG 19. LFTs notable for AST 63 and ALP 
573
lipase 68. Troponin elevated 0.52 and MB 11.  
 
On imaging, EKG notable for LBBB. CXR showing moderate R pleural
effusion and small L pleural effusion. CT Head WO contrast
obtained.  
 
Patient was administered home medications albuterol and
ipratropium bromide nebs.  
 
On arrival to the floor patient confirms the above history,
though somewhat disputes the fact that he lost consciousness. He
is at a loss to describe exactly what happened.  
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- HFpEF
- Currently in atrial fibrillation, unclear if new, family 
history of prolonged QT syndrome  
3. OTHER PAST MEDICAL HISTORY 
- Aortic valve replacement ___
- Obesity
- OSA on CPAP
- Gout
- ADD
- H/O basal cell carcinoma
- H/O thyroid irradiation
- H/O mania
- H/O chemical gastritis
- H/O sessile serrated adenoma
 
Social History:
___
Family History:
-no hx of neurological do's including seizure or stroke
-mother: lung CA
-father: MI heart attack at ___ still alive
-Sister: HLD, obesity, breast cancer
-great grandaunt with stroke and heart attack also at ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: T 96.8-97.2  BP 104/59  HR 73  RR 20  O2 SAT 98-100% RA 
GENERAL: Chronically ill-appearing man in NAD. Oriented x3.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
No pallor or cyanosis of the oral mucosa. No xanthelasma. Pale,
thin skin with prominent veins. 
NECK: Supple. JVP unable to appreciate.  
CARDIAC: Regular rate and rhythm. Normal S1, S2. Soft diastolic
murmur at USB. 
LUNGS: Respiration is unlabored with no accessory muscle use. No
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, non-tender, non-distended.  
EXTREMITIES: Warm, well perfused. 2+ ___ edema. No asterixis.

DISCHARGE PHYSICAL EXAM
 
Pertinent Results:
ADMISSION LABS
=======================
___ 02:22PM BLOOD WBC-12.4* RBC-2.87* Hgb-8.1* Hct-26.4* 
MCV-92 MCH-28.2 MCHC-30.7* RDW-17.2* RDWSD-57.3* Plt ___
___ 02:22PM BLOOD ___ PTT-35.5 ___
___ 02:22PM BLOOD Glucose-93 UreaN-33* Creat-4.3*# Na-120* 
K-7.4* Cl-92* HCO3-20* AnGap-8*
___ 03:57PM BLOOD ALT-37 AST-63* AlkPhos-573* TotBili-1.5
___ 03:57PM BLOOD Lipase-68*
___ 02:22PM BLOOD CK-MB-11* cTropnT-0.52* ___
___ 11:59PM BLOOD CK-MB-11* MB Indx-31.4* cTropnT-0.58*
___ 01:31AM BLOOD Lactate-3.5*

MICROBIOLOGY
=======================

 URINE CULTURE (Final ___: 
      KLEBSIELLA OXYTOCA.    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |   
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Blood Culture ___ negative

IMAGING
======================
EGD ___
Varices at the lower esophagus
Food in the stomach
Spot in the stomach
Normal mucosa in the duodenum
Otherwise normal EGD to third part of the duodenum 

COLONOSCYOP ___
Diverticulosis of the sigmoid colon
Internal hemorrhoids
No fresh or retained blood visualized.
Otherwise normal colonoscopy to cecum

LIVER ULTRASOUND ___
Limited views show or no abnormalities in the liver parenchyma 
and a patent portal vein.  Persistent right pleural effusion.  
No ascites. 

CTA ABDOMEN AND PELVIS ___. No evidence of intraluminal contrast extravasation. 
2. Ground-glass opacities in the left lower lobe raise the 
possibility of 
aspiration or developing infection. 
3. Moderate superior mesenteric artery stenosis. 
4. Nodular hepatic contour consistent with cirrhosis. 
5. Cholelithiasis without cholecystitis. 
6. Moderate nonhemorrhagic right pleural effusion with adjacent 
relaxation 
atelectasis. 

ECHO (___)
Overall left ventricular systolic function is normal (LVEF>55%). 
A bioprosthetic aortic valve prosthesis is present. The aortic 
valve prosthesis leaflets appear to move normally. A 
paravalvular jet of mild aortic regurgitation in non coronary 
cusp is seen. No masses or vegetations are seen on the aortic 
valve. No aortic valve abscess is seen. The mitral valve 
leaflets are structurally normal. Moderate to severe (3+) mitral 
regurgitation is seen. There is no abscess of the tricuspid 
valve. Moderate to severe [3+] tricuspid regurgitation is seen. 
There is no pericardial effusion. 

IMPRESSION: Paravalvular jet of mild aortic regurgitation in 
noncoronary cusp is seen. Moderate to severe tricuspid 
regurgitation. Moderate to severe mitral regurgitation. 

ECHO (___)
The left atrium is elongated. The right atrium is moderately 
dilated. There is moderate symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. 
Regional left ventricular wall motion is normal. Overall left 
ventricular systolic function is normal (LVEF>60%). A coronary 
fistula into the right ventricle is suggested in clip 54 given 
flow thoughout the cardiac cycle. A tiny muscular VSD is 
possible but less likley given diastolic flow and presence of 
high right heart pressures. The right ventricular free wall is 
hypertrophied. The right ventricular cavity is moderately 
dilated with moderate global free wall hypokinesis. The 
ascending aorta is mildly dilated. The aortic arch is mildly 
dilated. A mechanical aortic valve prosthesis is present. The 
aortic valve prosthesis appears well seated, with normal 
leaflet/disc motion and transvalvular gradients. Mild (1+) 
aortic regurgitation is seen. [The amount of regurgitation 
present is probably normal for this prosthetic aortic valve.] 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. At least moderate mitral regurgitation 
[2+] is seen. The mechanism is not clear. The posterior leaflet 
does appear somehwat restricted in the absence of myocardial 
disease subtending the papillary muscle. Severe [4+] tricuspid 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. [In the setting of at least moderate to 
severe tricuspid regurgitation, the estimated pulmonary artery 
systolic pressure may be underestimated due to a very high right 
atrial pressure.] There is no pericardial effusion. 

IMPRESSION: Right ventricular hypertrophy with moderately 
dilated cavity and moderate hypokinesis. Severe tricuspid 
regurgitation. At least moderate mitral regurgitation. Suspected 
coronary artery fistula (see above). At least moderate pulmonary 
hypertension. Normally mechanical aortic valve gradients. 

Compared with the prior study (images reviewed) of ___ the 
mitral regurgitation is slightly reduced. The tricuspid 
regurgitation is similar, but the volume overload on the left 
ventricle/septal interaction is nearly absent consistent with 
interval unloading of the right ventricle. 

RUQUS (___)
1. Cirrhotic liver, without evidence of focal lesion or ascites. 
 Spleen not
seen due to limited patient mobility.
2. Patent main and right portal veins.
3. Cholelithiasis without evidence of acute cholecystitis.
4. Right pleural effusion.

Abdominal US (___)
1. Patent hepatic vasculature with bidirectional flow within the 
portal veins.
2. Cirrhotic liver morphology with no focal lesions identified.
3. Trace ascites and a right pleural effusion.
4. Cholelithiasis without evidence of cholecystitis.

ECHO (___)

The left atrium is elongated. The right atrium is markedly 
dilated. The estimated right atrial pressure is at least 15 
mmHg. There is moderate symmetric left ventricular hypertrophy. 
Regional left ventricular wall motion is normal. Overall left 
ventricular systolic function is normal (LVEF>55%). Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). The right ventricular cavity is 
moderately dilated with moderate global free wall hypokinesis. 
[Intrinsic right ventricular systolic function is likely more 
depressed given the severity of tricuspid regurgitation.] There 
is abnormal septal motion/position consistent with right 
ventricular pressure/volume overload. A mechanical aortic valve 
prosthesis is present with normal transvalvular gradients. The 
leaflets are not well seen. Mild (1+) aortic regurgitation is 
seen. The mitral valve leaflets are mildly thickened. There is 
no mitral valve prolapse. Moderate to severe (3+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. The tricuspid valve leaflets fail to fully coapt. 
Severe [4+] tricuspid regurgitation is seen. [In the setting of 
at least moderate to severe tricuspid regurgitation, the 
estimated pulmonary artery systolic pressure may be 
underestimated due to a very high right atrial pressure.] There 
is a trivial/physiologic pericardial effusion. A right pleural 
effusion is present. 

IMPRESSION: Moderate symmetric left ventricular hypertrophy with 
normal systolic function. Dilated right ventricle with moderate 
free wall hypokinesis and severe tricuspid regurgitation. 
Significant pulmonary hypertension. Well seated mechanical 
aortic valve with normal transvalvular gradients. Mild aortic 
regurgitation. Moderate to severe mitral regurgitation. 

Compared with the prior study (images reviewed) of ___, 
the degree of tricuspid and mitral regurgitation is 
significantly worse. 

CT Head WO Contrast (___): No acute intracranial 
abnormality, specifically no acute intracranial hemorrhage.

CXR (___) Moderate right and small left pleural effusions.

CTA ___

IMPRESSION:
 
1. No evidence of intraluminal contrast extravasation.
2. Ground-glass opacities in the left lower lobe raise the 
possibility of
aspiration or developing infection.
3. Moderate superior mesenteric artery stenosis.
4. Nodular hepatic contour consistent with cirrhosis.
5. Cholelithiasis without cholecystitis.
6. Moderate nonhemorrhagic right pleural effusion with adjacent 
relaxation
atelectasis.

MRCP ___
IMPRESSION:
 
1. No evidence of biliary obstruction.
2. Moderate right pleural effusion.
3. Morphologic features of cirrhosis.
4. Subcentimeter cystic lesions within the pancreatic head and 
body.  These
likely reflect side-branch IPMN.  Follow-up MRCP in ___ year for 
pancreatic
cystic lesions.
 
RECOMMENDATION(S):  Follow-up MRCP in ___ year for pancreatic 
cystic lesions.

TTE ___
Conclusions
The left atrium is mildly dilated. The right atrium is 
moderately dilated. There is moderate symmetric left ventricular 
hypertrophy. The left ventricular cavity size is normal. The 
right ventricular cavity is mildly dilated with normal free wall 
contractility. There is abnormal septal motion/position 
consistent with right ventricular pressure/volume overload. A 
mechanical aortic valve prosthesis is present. The aortic valve 
prosthesis appears well seated, with normal leaflet/disc motion 
and transvalvular gradients. Mild to moderate paravalvular 
(___) aortic regurgitation is seen in the 8 o'clock position. 
[Due to acoustic shadowing, the severity of aortic regurgitation 
may be significantly UNDERestimated.] The mitral valve leaflets 
are mildly thickened. There is no mitral valve prolapse. An 
eccentric, posteriorly directed jet of Moderate (2+) mitral 
regurgitation is seen. Moderate [2+] tricuspid regurgitation is 
seen. There is mild pulmonary artery systolic hypertension. 
There is a trivial/physiologic pericardial effusion. 

IMPRESSION: Moderate symmetric left ventricular hypertrophy with 
normal cavity size, and regional/global systolic function. Well 
seated mechanical AVR with normal gradients and disc motion. 
Mild to moderate paravalvular aortic regurgitation. Moderate 
tricuspid regurgitation. Moderate posteriorly directed mitral 
regurgitation. Mild pulmonary artery systolic hypertension. 

Compared with the prior study (images reviewed) of ___, 
the degree of tricuspid regurgitation appears less. Other 
findings appear similar. 

DISCHARGE LABS/PERTINENT LABS
==============================
Please review in OMR.

 
Brief Hospital Course:
Mr. ___ is a ___ male with history of severe aortic 
stenosis status post mechanical aortic valve replacement in 
___, with recent episode of aortic valve endocarditis with 
subsequent dehiscence, paroxysmal Afib/flutter, hypertension, 
hyperlipidemia, OSA, CHF with preserved EF, likely cardiac 
cirrhosis, who presented with syncope, admitted for acute on 
chronic HFpEF exacerbation, with hospital course complicated by 
CCU admission due to rising lactate with concern for low flow 
state, status post CRRT, with subsequent intermittent HD. 

Patient presented with acute syncopal episode, along with 
worsening several day history of dyspnea and missed one HD 
session prior to admission. Initially with elevated proBNP of 
16,113 and CXR showing moderate right and small left pleural 
effusion. Was found to be significantly volume overloaded with 
acute on chronic HFpEF exacerbation. Patient initially underwent 
HD for volume management. Elevated lactate on admission was 
thought to be from volume overload from CHF exacerbation and 
from missing HD session, along with delayed hepatic and renal 
clearance.  Hospital course was complicated by up-trending 
lactate despite HD to a peak of 5.5.  Patient was subsequently 
cool on exam with concern for low flow state, although BPs were 
low-normal. He was subsequently transferred to the CCU for 
urgent CRRT. He completed CRRT for 48 hours with removal of 
300cc/hr with lactate down-trending to 2.5.  TTE was performed 
on ___ to evaluate bioprosthetic aortic valve.  It was thought 
that possible plug from previous paravalvular leak repair may be 
obstructing the RCA which may have contributed to proximal RCA 
ischemia leading to a NSTEMI per below, however ultimately this 
was felt less likely to be contributing in a significant way to 
his heart failure symptoms.

He was stabilized from a volume standpoint after CRRT in the 
ICU, and was transferred to the F3 floor for further 
optimization of medications and hopeful discharge to rehab 
facility.

The patient began to have increasing amounts of diarrhea 
(attributed to lactulose), however C diff was checked and was 
negative. On the morning on ___ patient began to have melena 
that transitioned to BRBPR around 1800. MAPS were in the low ___ 
to ___. Case was discussed with hepatology who were on board and 
recommended IV PPI, CTX and octreotide. He had more maroon 
stools, requiring multiple transfusions, had a upper and lower 
endoscopy, without clear source but did show grade I varices (1 
cord). He required pressor support initially with phenylephrine, 
which was weaned off starting ___.

He was transferred back to the general cardiology floor on ___ 
after stabilization. However, he was felt to be volume 
overloaded and in addition to ___ HD sessions was continued on 
UF on non-HD days.
He started to approach euvolemia. 
However, on ___ started to notice uptrend in 
his LFTs. His Alk phos peaked around 3000-4000, and his 
bilirubin increased as well. Liver was consulted, and 
recommended biopsy which was not performed due to risk for 
bleeding and patient's tenuous clinical status. His amiodarone 
and statin were discontinued, however his LFTs were persistently 
abnormal though his AST/ALT did eventually downtrend.

The week of ___, he developed relative hypotension, 
triggering overnight for SBPs in 70-80s. At HD sessions fluid 
removal was limited ___ hypotension.
The AM of ___, Mr. ___ again became hypotensive to the 
60-70s systolic, and felt symptomatic and dizzy. At that time, 
discussion was held with his wife and daughter about his 
multiple organ system failure, and ultimately it was decided 
that they would focus on comfort measures rather than 
upescalating care. 

He passed away with his family at his bedside on ___.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. ARIPiprazole 4 mg PO DAILY 
2. Aspirin EC 81 mg PO DAILY 
3. Warfarin 4.5 mg PO DAILY16 
4. Amiodarone 200 mg PO DAILY 
5. Lactulose 20 mL PO Q8H titrate to 3 BM 
6. Midodrine 15 mg PO TID 
7. Neomycin-Polymyxin-Bacitracin 1 Appl TP PRN with all dressing 
changes 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Rifaximin 550 mg PO BID 
11. Sarna Lotion 1 Appl TP QID:PRN chest rash 
12. Albuterol Inhaler ___ PUFF IH Q6H:PRN Wheeze 
13. Allopurinol ___ mg PO DAILY 
14. Atorvastatin 80 mg PO QPM 
15. Amphetamine-Dextroamphetamine 20 mg PO DAILY 
16. Isosorbide Dinitrate 20 mg PO DAILY 
17. Metoprolol Tartrate 12.5 mg PO BID 
18. tadalafil ___ mg oral DAILY 
19. Calcitriol 0.5 mcg PO DAILY 
20. Aranesp (in polysorbate) (darbepoetin alfa in polysorbat) 
200 mcg/mL injection 1X/WEEK 
21. Calcium Acetate 667 mg PO TID W/MEALS 

 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Elevated lactate
Acute on chronic HF exacerbation w/ preserved EF
NSTEMI
Syncope

SECONDARY DIAGNOSIS
====================
Cirrhosis
ESRD
Aflutter
HLD
Bipolar

 
Discharge Condition:
deceased
 
Discharge Instructions:
n/a
 
Followup Instructions:
___